US08609675B2
Ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate (Int-18f, 152 mg, 0.212 mmol) was dissolved in acetonitrile (5 mL) and NBS (38 mg, 0.212 mmol) was added. The mixture was stirred at room temperature for 3 h and then concentrated. The residue was purified with a column (silica gel, 0-30% ethyl acetate in hexane) which gave ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate (Int-18g) (139 mg). HPLC-MS tR=3.04 min (UV254 nm); mass calculated for formula C39H54BrN5O4Si2 791.3, observed LCMS m/z 792.2 (M+H).

reactant | Ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate | 0.212 mmol, 152 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2=CCC(CC2)(C(=O)OCC)C)COCC[Si](C)(C)C)(C)C | C39H55N5O4Si2
reactant | NBS | 0.212 mmol, 38 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | ethyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)-1-methylcyclohex-3-enecarboxylate | 139 mg | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)C2=CCC(CC2)(C(=O)OCC)C)Br)COCC[Si](C)(C)C)(C)C | C39H54BrN5O4Si2
